US07714010B2
b) 7,7-Dimethyl-5-pent-2-ynyl-2-phenethyl-5,7-dihydro-1H-imidazo [4.5-f]indol-6-one
To a solution of N-(3,3-dimethyl-6-nitro-2-oxo-1-pent-2-ynyl-2,3-dihydro-1H-indol-5-yl)-3-phenyl-propionamide (50 mg) in THF (0.5 ml) is added a solution of SnCl2.H2O (107 mg; 476 μmol) in hydrochloric acid (1 M; 2 ml) at RT. The mixture is stirred 2 h at RT and subsequent 2 h at 40° C. The reaction mixture is adjusted to pH 12 and extracted with CH2Cl2 (3×15 ml). The combined organic layer is dried over MgSO4 and concentrated in vacuo. The desired compound (19 mg) is obtained by flash chromatography on silica gel eluting with CH2Cl2/MeOH (99:1).

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-1-pent-2-ynyl-2,3-dihydro-1H-indol-5-yl)-3-phenyl-propionamide | 50 mg | CC1(C(N(C2=CC(=C(C=C12)NC(CCC1=CC=CC=C1)=O)[N+](=O)[O-])CC#CCC)=O)C | C24H25N3O4
reactant | SnCl2.H2O | 476 μmol, 107 mg | Cl[Sn]Cl.O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 1 M, 2 ml | Cl | ClH
product | 7,7-Dimethyl-5-pent-2-ynyl-2-phenethyl-5,7-dihydro-1H-imidazo [4.5-f]indol-6-one | 19 mg | CC1(C(N(C=2C=C3C(=CC12)NC(=N3)CCC3=CC=CC=C3)CC#CCC)=O)C | C24H25N3O
